US03963706
a. 2-(4-Sulphamoylanilino)-N-cyclohexylacetamide
2-Chloro-N-cyclohexylacetamide (8.7 g) and sulfanilamide (17.2g) were heated for 30 min. at 160°C. The mixture was then added to 2N NaOH and extracted with ethyl acetate to yield 8.2 g, product, m.p. 223° - 225°C

reactant | 2-Chloro-N-cyclohexylacetamide | 8.7 g | ClCC(=O)NC1CCCCC1 | C8H14ClNO
reactant | sulfanilamide | 17.2g | S(=O)(C1=CC=C(C=C1)N)(=O)N | C6H8N2O2S
reactant | NaOH | 2N | [OH-].[Na+]
product | 2-(4-Sulphamoylanilino)-N-cyclohexylacetamide | S(N)(=O)(=O)C1=CC=C(NCC(=O)NC2CCCCC2)C=C1 | C14H21N3O3S
